US03997535
c. 3-Chloro-6,7-dimethyl-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide
3-Chloro-6,7-dimethyl-2quinoxalinecarboxylic acid (10.5 g) and N,N'-carbonyldiimidazole (7.35 g) in tetrahydrofuran (350 ml) were heated under reflux for 1 hour. 5-Amino-1H-tetrazole (4.3 g) in dimethylformamide (10 ml) was added and the mixture was heated under reflux for a further hour and cooled. The solid was collected and dissolved in aqueous dimethylaminoethanol. Dilute hydrochloric acid was added to the solution and the solid was collected and crystallised from dimethylformamide. The product decomposed at 360° (39%).

reactant | 3-Chloro-6,7-dimethyl-2quinoxalinecarboxylic acid | 10.5 g | ClC=1C(=NC2=CC(=C(C=C2N1)C)C)C(=O)O | C11H9ClN2O2
reactant | 5-Amino-1H-tetrazole | 4.3 g | NC1=NN=NN1 | CH3N5
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-6,7-dimethyl-N(1H-tetrazol-5-yl)-2-quinoxalinecarboxamide | ClC=1C(=NC2=CC(=C(C=C2N1)C)C)C(=O)NC1=NN=NN1 | C12H10ClN7O
